US04352933
To a stirred solution of 8.1 g (32 mmol) of 2,4-dichloro-5-[(6-methyl-3-pyridinyl)methyl]pyrimidine prepared as in Example 1 in 200 ml of ethanol at 10° was added dropwise over 1 hour a solution of 0.8 g (35 mg-atom) of sodium metal in 100 ml of ethanol. The resulting mixture was stirred for 18 hours at room temperature, concentrated, and the resulting oil dissolved in 100 ml of ethyl acetate. The resulting solution was washed with water, dried over sodium sulfate, filtered and concentrated to give 7.6 g (0.0288 mmol, 90%) of 2-chloro-4-ethoxy-5-[(6-methyl-3-pyridinyl)methyl]pyrimidine; MS(FD)m/e 263 parent ion.

reactant | 2,4-dichloro-5-[(6-methyl-3-pyridinyl)methyl]pyrimidine | 32 mmol, 8.1 g | ClC1=NC=C(C(=N1)Cl)CC=1C=NC(=CC1)C | C11H9Cl2N3
reactant | sodium | 0.8 g | [Na] | Na
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-chloro-4-ethoxy-5-[(6-methyl-3-pyridinyl)methyl]pyrimidine | 0.0288 mmol, 7.6 g, 90% | ClC1=NC=C(C(=N1)OCC)CC=1C=NC(=CC1)C | C13H14ClN3O
